US08859569B2
5-Fluoro-6-methyl-1H-pyrazolo[3,4-b]pyridin-3-amine
58 g (340.027 mmol) of 2-chloro-5-fluoro-6-methylnicotinonitrile (preparation described in WO2007/41052, example U-2, page 80) was put in 1,2-ethanediol (580 ml) and then hydrazine hydrate (24.813 ml) and 56.091 ml (340.027 mmol) of diisopropyl ethylamine were added. The reaction mixture was heated with stirring for 16 h to 80° C. and then for 66 h to 120° C. After cooling, water (2.5 l) and ethyl acetate (2.5 l) were added and it was filtered with suction. The solid obtained was dried. 28.4 g (47% of theor.) of the target compound was obtained.

reactant | 2-chloro-5-fluoro-6-methylnicotinonitrile | 340.027 mmol, 58 g | ClC1=C(C#N)C=C(C(=N1)C)F | C7H4ClFN2
reactant | hydrazine hydrate | 24.813 ml | O.NN
reactant | diisopropyl ethylamine | 340.027 mmol, 56.091 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | water | 2.5 l | O | H2O
solvent | 1,2-ethanediol | 580 ml | C(CO)O | C2H6O2
solvent | ethyl acetate | 2.5 l | C(C)(=O)OCC | C4H8O2
product | 5-Fluoro-6-methyl-1H-pyrazolo[3,4-b]pyridin-3-amine | FC=1C=C2C(=NC1C)NN=C2N | C7H7FN4
